US04352795
4-Chloro-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine reacted sequentially with sodium allyloxide and liquid ammonia and deblocked by hydrogenation in the presence of a catalyst provides 2-amino-7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidine-4-one. Treatment with phosphoryl chloride and triethyl phosphate provides the corresponding 5'-phosphate compound.

reactant | 4-Chloro-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)S(=O)(=O)C)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C33H32ClN3O6S
reactant | sodium allyloxide | C(C=C)OCC=C.[Na]
reactant | ammonia | N | H3N
product | 2-amino-7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidine-4-one | NC=1NC(C2=C(N1)N(C=C2)[C@H]2[C@@H](O)[C@H](O)[C@H](O2)CO)=O | C11H14N4O5
